US09029374B2
3-fluoro-5-methoxyaniline (115 mg, 0.82 mmol) was reacted with 8-(1-bromoethyl)-N,N-dimethyl-2-morpholino-4-oxo-4H-chromene-6-carboxamide hydrobromide (100 mg, 0.20 mmol) using an analogous procedure to the one described in Example 3.03 to give 8-(1-(3-fluoro-5-methoxyphenylamino)ethyl)-N,N-dimethyl-2-morpholino-4-oxo-4H-chromene-6-carboxamide (60 mg, 63%) as a white solid. Mass Spectrum: M+H+ 470. NMR Spectrum (DMSOd6): 1.50 (d, 3H), 2.74 (bs, 3H), 2.94 (bs, 3H), 3.50-3.63 (m, 4H), 3.61 (s, 3H), 3.68-3.79 (m, 4H), 4.94-5.03 (m, 1H), 5.60 (s, 1H), 5.87 (dd, 1H), 5.88 (s, 1H), 5.93 (ddd, 1H), 6.63 (d, 1H), 7.57 (d, 1H), 7.79 (d, 1H).

reactant | 3-fluoro-5-methoxyaniline | 0.82 mmol, 115 mg | FC=1C=C(N)C=C(C1)OC | C7H8FNO
reactant | 8-(1-bromoethyl)-N,N-dimethyl-2-morpholino-4-oxo-4H-chromene-6-carboxamide hydrobromide | 0.20 mmol, 100 mg | Br.BrC(C)C=1C=C(C=C2C(C=C(OC12)N1CCOCC1)=O)C(=O)N(C)C
product | 8-(1-(3-fluoro-5-methoxyphenylamino)ethyl)-N,N-dimethyl-2-morpholino-4-oxo-4H-chromene-6-carboxamide | 60 mg, 63% | FC=1C=C(C=C(C1)OC)NC(C)C=1C=C(C=C2C(C=C(OC12)N1CCOCC1)=O)C(=O)N(C)C | C25H28FN3O5
